data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:13]1[cH:9][c:18]([N+:26](=[O:8])[O-:28])[cH:27][c:12]2[c:38]1[n:24][o:37][n+:47]2[O-:4])[O-:23].[cH:3]1[cH:21][cH:32][c:40]([N:25]2[C:6](=[C:29]([c:5]3[cH:14][cH:41][cH:7][cH:42][cH:15]3)[O:10][CH3:43])[N:11]([c:48]3[cH:19][cH:35][cH:31][cH:36][cH:20]3)[N:44]=[C:34]2[c:30]2[cH:45][cH:16][cH:39][cH:17][cH:46]2)[cH:33][cH:22]1>>[N+:1](=[O:2])([C:13]1=[CH:9][C:18](=[N+:26]([O-:8])[O-:28])[CH:27]([C:29]([c:5]2[cH:14][cH:41][cH:7][cH:42][cH:15]2)([c:6]2[n+:11](-[c:48]3[cH:19][cH:35][cH:31][cH:36][cH:20]3)[n:44][c:34](-[c:30]3[cH:45][cH:16][cH:39][cH:17][cH:46]3)[n:25]2-[c:40]2[cH:32][cH:21][cH:3][cH:22][cH:33]2)[O:10][CH3:43])[c:12]2[c:38]1[n:24][o:37][n+:47]2[O-:4])[O-:23]", "epd": [["LP-/Pi+", [11], [6, 11]], ["Pi-/Sigma+", [29, 6], [29, 27]], ["Pi-/Pi+", [27, 18], [18, 26]], ["Pi-/LP+", [26, 8], [8]]]}
{"reaction_name": "Acid chloride hydrolysis", "rsmi": "[C:1]([Cl:2])(=[O:3])[CH3:5].[OH-:4]>>[C:1](=[O:3])([OH:4])[CH3:5].[Cl-:2]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Pi-/LP+", [1, 3], [3]], ["LP-/Pi+", [3], [1, 3]], ["Sigma-/LP+", [1, 2], [2]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[N:1]1([c:25]2[cH:37][cH:4][n:41][cH:5][cH:38]2)[CH2:20][CH2:40][CH2:7][CH:22]1[C:33]([c:26]1[cH:9][cH:16][cH:23][cH:17][cH:10]1)([c:27]1[cH:11][cH:18][cH:24][cH:19][cH:12]1)[F:39].[cH:2]1[cH:3][cH:29][cH:8][c:13]2[c:6]1[N+:34]([CH3:15])=[CH:28][C:21]2=[CH:14][c:32]1[cH:30][cH:35][cH:42][cH:36][cH:31]1>>[N+:1]1(=[c:25]2[cH:37][cH:4][n:41]([CH:14]([c:21]3[c:13]4[c:6]([cH:2][cH:3][cH:29][cH:8]4)[n:34]([CH3:15])[cH:28]3)[c:32]3[cH:30][cH:35][cH:42][cH:36][cH:31]3)[cH:5][cH:38]2)[CH2:20][CH2:40][CH2:7][CH:22]1[C:33]([c:26]1[cH:9][cH:16][cH:23][cH:17][cH:10]1)([c:27]1[cH:11][cH:18][cH:24][cH:19][cH:12]1)[F:39]", "epd": [["LP-/Pi+", [1], [1, 25]], ["Pi-/LP+", [28, 34], [34]], ["Pi-/Pi+", [25, 38], [5, 38]], ["Pi-/Sigma+", [5, 41], [14, 41]], ["Pi-/Pi+", [14, 21], [21, 28]]]}
{"reaction_name": "Benzylic carbanion formation", "rsmi": "[CH3-:8].[c:1]1([CH2:2][H:9])[cH:3][cH:5][cH:7][cH:6][cH:4]1>>[CH3:8][H:9].[c:1]1([CH2-:2])[cH:3][cH:5][cH:7][cH:6][cH:4]1", "epd": [["LP-/Sigma+", [8], [8, 9]], ["Sigma-/LP+", [2, 9], [2]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:3](=[O+:31][CH3:30])[c:33]1[cH:22][cH:20][cH:18][cH:21][cH:23]1.[NH:1]1[CH2:17][CH2:4][CH2:2][CH:19]1[C:32]([c:8]1[cH:11][cH:24][cH:5][cH:29][cH:16]1)([c:9]1[cH:12][cH:25][cH:6][cH:26][cH:13]1)[c:10]1[cH:14][cH:27][cH:7][cH:28][cH:15]1>>[NH+:1]1([CH:3]([O:31][CH3:30])[c:33]2[cH:22][cH:20][cH:18][cH:21][cH:23]2)[CH2:17][CH2:4][CH2:2][CH:19]1[C:32]([c:8]1[cH:11][cH:24][cH:5][cH:29][cH:16]1)([c:9]1[cH:12][cH:25][cH:6][cH:26][cH:13]1)[c:10]1[cH:14][cH:27][cH:7][cH:28][cH:15]1", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Pi-/LP+", [3, 31], [31]]]}
{"reaction_name": "Neutral lone-pair capture of a preformed localized carbocation", "rsmi": "[NH:1]1[CH2:20][CH2:3][CH2:2][CH:21]1[C:38]([c:7]1[cH:10][cH:22][cH:4][cH:27][cH:15]1)([c:8]1[cH:11][cH:23][cH:5][cH:24][cH:12]1)[c:9]1[cH:13][cH:25][cH:6][cH:26][cH:14]1.[cH:16]1[c:28]([CH+:41][c:29]2[cH:17][c:32]([F:36])[cH:40][c:33]([F:37])[cH:18]2)[cH:19][c:30]([F:34])[cH:39][c:31]1[F:35]>>[NH+:1]1([CH:41]([c:28]2[cH:16][c:31]([F:35])[cH:39][c:30]([F:34])[cH:19]2)[c:29]2[cH:17][c:32]([F:36])[cH:40][c:33]([F:37])[cH:18]2)[CH2:20][CH2:3][CH2:2][CH:21]1[C:38]([c:7]1[cH:10][cH:22][cH:4][cH:27][cH:15]1)([c:8]1[cH:11][cH:23][cH:5][cH:24][cH:12]1)[c:9]1[cH:13][cH:25][cH:6][cH:26][cH:14]1", "epd": [["LP-/Sigma+", [1], [1, 41]]]}
{"reaction_name": "Amide-to-amine one-carbon degradation sequence", "rsmi": "[Br:1][O-:4].[H:7][O-:10].[N:2]([C:5](=[O:3])[CH3:6])([H:8])[H:9]>>[Br-:1].[H:9][O-:10].[N:2]([CH3:6])([H:7])[H:8].[O:3]=[C:5]=[O:4]", "epd": [["Sigma-/LP+", [2, 5], [2]], ["LP-/Sigma+", [2], [2, 7]], ["Sigma-/LP+", [7, 10], [10]], ["LP-/Sigma+", [10], [9, 10]], ["Sigma-/LP+", [2, 9], [2]], ["LP-/Sigma+", [2], [2, 6]], ["LP-/Sigma+", [4], [4, 5]], ["Sigma-/LP+", [1, 4], [1]], ["Sigma-/Pi+", [5, 6], [4, 5]]]}
